US07956191B2
2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethyl)-isonicotinamide was synthesized according to General Method 3, starting with 145 mg (0.33 mmol) of 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid 51 mg (0.83 mmol) of 2-amino-ethanol. LC/MS: [8.98 min, 480, 482]

reactant | 2-bromo-5-[(2-fluoro-4-iodophenyl)amino]isonicotinic acid | 0.33 mmol, 145 mg | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
reactant | 2-amino-ethanol | NCCO | C2H7NO
product | 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethyl)-isonicotinamide | BrC=1C=C(C(=O)NCCO)C(=CN1)NC1=C(C=C(C=C1)I)F | C14H12BrFIN3O2
